US07947689B2
6-Bromo-2-[(4-methyl-6,7-dihydrothieno[3,2-c]pyridin-5(4H)-yl)carbonyl]pyrazolo[1,5-a]pyrimidine
To a solution of 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid (0.7 g, 2.9 mmol, 1.0 equiv) and TBTU (1.0 g, 3.1 mmol, 1.1 equiv) in dry acetonitrile (20 mL), triethylamine (1 mL, 7.25 mmol, 2.5 equiv) and 4-methyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine (0.45 g, 2.9 mmol, 1 equiv) are added. The reaction mixture is stirred at 50° C. for 2 h and then at room temperature for 8 h. The reaction mixture is diluted with water (10 ml). The precipitate is filtered, washed sequentially with 50% aqueous ethanol, water, 5% aqueous ammonia, and diethyl ether, and then dried to provide 0.524 g of the title compound.

reactant | 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | 2.9 mmol, 0.7 g, 1.0 equiv | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | TBTU | 3.1 mmol, 1.0 g, 1.1 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 7.25 mmol, 1 mL, 2.5 equiv | C(C)N(CC)CC | C6H15N
reactant | 4-methyl-4,5,6,7-tetrahydro-thieno[3,2-c]pyridine | 2.9 mmol, 0.45 g, 1 equiv | CC1NCCC2=C1C=CS2 | C8H11NS
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | water | 10 ml | O | H2O
product | 6-Bromo-2-[(4-methyl-6,7-dihydrothieno[3,2-c]pyridin-5(4H)-yl)carbonyl]pyrazolo[1,5-a]pyrimidine | 0.524 g, Yield: 48% | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=C(CC2)SC=C1)C | C15H13BrN4OS
